US07262185B2
4-nitropyridine-N-oxide (12 g) was dissolved in ethanol, sodium ethoxide (8.8 g) was added to the mixture, and the mixture was stirred for 40 hours at 50° C. After allowing the mixture to be cooled to room temperature, the precipitates were filtered, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-ethoxypyridine-N-oxide (11.8 g). To 4-ethoxypyridine-N-oxide (11.8 g) was added dimethyl sulfate (8.56 ml), and the mixture was stirred for 1 hour at 110° C. After diluting with methanol (180 ml), the mixture was heated to reflux for 1 hour, an aqueous solution (18 ml) of ammonium peroxodisulfate (20.6 g) was added dropwise to the solution under heat reflux, and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give (4-ethoxy-2-pyridinyl)methanol (2.8 g).

reactant | 4-nitropyridine-N-oxide | 12 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
reactant | sodium ethoxide | 8.8 g | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-ethoxypyridine-N-oxide | 11.8 g | C(C)OC1=CC=[N+](C=C1)[O-] | C7H9NO2
